US07276529B2
Preparation of (+)-2-[1-(3-Ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-acetylaminoisoindoline-1,3-dione.
A 500 mL 3-necked round bottom flask was equipped with a mechanical stirrer, thermometer, and condenser. The reaction vessel was charged with (S)-2-(3-ethoxy-4-methoxyphenyl)-1-(methylsulphonyl)-eth-2-yl amine N-acetyl-L-leucine salt (25 g, 56 mmol, 98% ee), 3-acetamidophthalic anhydride (12.1 g 58.8 mmol), and glacial acetic acid (250 mL). The mixture was refluxed over night and then cooled to <50° C. The solvent was removed in vacuo, and the residue was dissolved in ethyl acetate. The resulting solution was washed with water (250 mL×2), saturated aqeous NaHCO3 (250 mL×2), brine (250 mL×2), and dried over sodium sulphate. The solvent was evaporated in vacuo, and the residue recrystallized from a binary solvent containing ethanol (150 mL) and acetone (75 mL). The solid was isolated by vacuum filtration and washed with ethanol (100 mL×2). The product was dried in vacuo at 60° C. to a constant weight, affording 19.4 g (75% yield) of (S)-{2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-inoisoindoline-1,3-dione with 98% ee. Chiral HPLC (15/85 EtOH/20 mM KH2PO4 @pH 0.5, Ultron Chiral ES-OVS from Agilent Technology, 150 mm×4.6 mm, 0.4 mL/min., @240 nm): 25.4 min (S-isomer, 98.7%), 29.5 min (R-isomer, 1.2%). 1H-NMR (CDCl3) δ: 1.47 (t, 3H), 2.26 (s, 3H), 2.87 (s, 3H), 3.68-3.75 (dd, 1H), 3.85 (s, 3H), 4.07-4.15 (q, 2H), 4.51-4.61 (dd, 1H), 5.84-5.90 (dd, 1H), 6.82-8.77 (m, 6H), 9.46 (s, 1H). 13C-NMR (DMSO-d6) δ: 14.66, 24.92, 41.61, 48.53, 54.46, 55.91, 64.51, 111.44, 112.40, 115.10, 118.20, 120.28, 124.94, 129.22, 131.02, 136.09, 137.60, 148.62, 149.74, 167.46, 169.14, 169.48.

reactant | (S)-2-(3-ethoxy-4-methoxyphenyl)-1-(methylsulphonyl)-eth-2-yl amine N-acetyl-L-leucine salt | 56 mmol, 25 g | C(C)(=O)N[C@@H](CC(C)C)C(=O)O.C(C)OC=1C=C(C=CC1OC)[C@@H](CS(=O)(=O)C)N
reactant | 3-acetamidophthalic anhydride | 58.8 mmol, 12.1 g | C(C)(=O)NC1=C2C(C(=O)OC2=O)=CC=C1 | C10H7NO4
reactant | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
reactant | Ultron | C=CCl | C2H3Cl
solvent | EtOH | 20 mM | CCO | C2H6O
product | (+)-2-[1-(3-Ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-acetylaminoisoindoline-1,3-dione | 75% yield | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)NC(C)=O)=O | C22H24N2O7S
